US04277498
3. Preparation of 2-Phthalimido-N-(1,1-dimethyl-2-cyclopentylethyl)acetamide
To a solution of 2-phthalimidoacetonitrile (11.2 g, 60 mmol) in trifluoroacetic acid (25 ml) at 0°-5° was added 2-cyclopentyl-1,1-dimethylethanol (8.52 g, 60 mmol) over 20 minutes. The reaction mixture was then stirred at 25° for 2 hours, poured into stirred water (200 ml), and the precipitated solid collected. The crude product was crystallized from ethanol-water (1:1) giving colourless needles m.p. 159°-160°. Found: C, 69.66; H, 7.18; N, 8.22. C19H24N2O3 requires C, 69.51; H, 7.32; N, 8.53.

reactant | 2-phthalimidoacetonitrile | 60 mmol, 11.2 g | C1(C=2C(C(N1CC#N)=O)=CC=CC2)=O | C10H6N2O2
reactant | 2-cyclopentyl-1,1-dimethylethanol | 60 mmol, 8.52 g | C1(CCCC1)CC(O)(C)C | C9H18O
reactant | water | 200 ml | O | H2O
solvent | trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Phthalimido-N-(1,1-dimethyl-2-cyclopentylethyl)acetamide | C1(C=2C(C(N1CC(=O)NC(CC1CCCC1)(C)C)=O)=CC=CC2)=O | C19H24N2O3
